US07081539B2
A mixture of hydroxylamine sulfate (344.0 g), water (904 ml) and a 25% aqueous sodium hydroxide solution (456 ml) is stirred, and thereto are added 4-hydroxycoumarin (168.0 g) and ethylenediaminetetraacetic acid disodium salt dihydrate (3.2 g), and the mixture is stirred with heating at 84° C.–86° C. for 4 hours. The reaction mixture is cooled, and thereto is added 1,2-dichloroethane (240 ml). The mixture is stirred, and the aqueous layer is collected. The pH value of the aqueous layer is adjusted to pH 1–2 with 25% sulfuric acid, and the precipitated crystals are collected by filtration, washed with water, and dried with air at 60° C. for 15 hours to give 1,2-benzisoxazole-3-acetic acid (170.4 g).

reactant | hydroxylamine sulfate | 344.0 g | S(=O)(=O)(O)O.NO
reactant | water | 904 ml | O | H2O
reactant | sodium hydroxide | 456 ml | [OH-].[Na+]
reactant | 4-hydroxycoumarin | 168.0 g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
catalyst | ethylenediaminetetraacetic acid disodium salt dihydrate | 3.2 g | O.O.[Na+].[Na+].C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)O)CC(=O)O
solvent | 1,2-dichloroethane | 240 ml | ClCCCl | C2H4Cl2
product | 1,2-benzisoxazole-3-acetic acid | 170.4 g | O1N=C(C2=C1C=CC=C2)CC(=O)O | C9H7NO3
